US09227978B2
2-(4-Chloro-5-iodo-2-methoxyphenylamino)propanoic acid
To a solution of methyl 2-(4-chloro-5-iodo-2-methoxyphenylamino)propanoate (1.12 g, 3.04 mmol) in mixture of tetrahydrofuran (20 mL) and water (10 mL) at RT, LiOH.H2O (0.51 g, 12.16 mmol) was added and the resulting mixture was stirred for 1 h. The aqueous phase was washed with TBME and then acidified with aqueous HCl (1N) to adjust the pH to 5. The mixture was extracted with ethyl acetate. The organic layer was washed with brine, dried over anhydrous Na2SO4, filtered and concentrated in vacuo to afford the crude product (760 mg) which was used directly in the next step without further purification. ESI-MS m/z: 356.1[M+H]+.

reactant | methyl 2-(4-chloro-5-iodo-2-methoxyphenylamino)propanoate | 3.04 mmol, 1.12 g | ClC1=CC(=C(C=C1I)NC(C(=O)OC)C)OC | C11H13ClINO3
reactant | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
reactant | LiOH.H2O | 12.16 mmol, 0.51 g | O[Li].O
solvent | water | 10 mL | O | H2O
product | 2-(4-Chloro-5-iodo-2-methoxyphenylamino)propanoic acid | 760 mg | ClC1=CC(=C(C=C1I)NC(C(=O)O)C)OC | C10H11ClINO3
